US07838675B2
N-(2-[(2,3-Difluorobenzyl)thio]-6-{[(trans)-2-hydroxycyclopentyl]oxy}pyrimidin-4-yl)azetidine-1-sulfonamide
A mixture of azetidine-1-sulfonamide (0.27 g), tris(dibenzylideneacetone)dipalladium (0) (50 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (50 mg), cesium carbonate (0.43 g) and (trans)-2-{6-chloro-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}cyclopentanol (the product from step i), 0.50 g) in dioxane (20 ml) was heated at reflux in a microwave at 100° C., 300 W, open vessel with cooling for 1 h. The reaction mixture was then reduced in vacuo and the residue partitioned between DCM (150 ml) and H2O (150 ml). The organics were separated and the aqueous layer was re-extracted with DCM (2×150 ml). Organics were combined, dried (MgSO4) and reduced under vacuo and the resulting residue purified by prep HPLC to give the title compound as a white solid. Yield 74 mg

reactant | azetidine-1-sulfonamide | 0.27 g | N1(CCC1)S(=O)(=O)N | C3H8N2O2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 50 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.43 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (trans)-2-{6-chloro-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}cyclopentanol | ClC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)[C@H]1[C@@H](CCC1)O | C16H15ClF2N2OS
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2-[(2,3-Difluorobenzyl)thio]-6-{[(trans)-2-hydroxycyclopentyl]oxy}pyrimidin-4-yl)azetidine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCC2)O[C@H]2[C@@H](CCC2)O)C=CC=C1F | C19H22F2N4O4S2
